US06890959B2
3-[3-(tert-Butyl-diphenyl-silanyloxy)-phenyl]-4-dimethylaminomethyl-cyclohex-2-enone
197 g 8-[3-(tert-Butyl-diphenyl-silanyloxy)-phenyl]-9-dimethylaminomethyl-3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-8-ol were dissolved in tetrahydrofuran and the solution was cooled to 5° C. A mixture of 300 ml concentrated hydrochloric acid and 300 ml water was added dropwise at this temperature. The mixture was then stirred at room temperature for 10 hours. 400 ml ethyl acetate were then added, while cooling with ice, and the pH was then brought to 12 with 32% sodium hydroxide solution. The phases were separated and the aqueous phase was extracted three times with 400 ml ethyl acetate each time. The combined organic phases were washed twice with 100 ml saturated sodium chloride solution each time and dried over magnesium sulfate and the solvent was then evaporated in vacuo. The residue was purified on silica gel with ethyl acetate/methanol=1/1. 68 g (42% of theory) of the title compound were obtained in this way.

reactant | 8-[3-(tert-Butyl-diphenyl-silanyloxy)-phenyl]-9-dimethylaminomethyl-3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-8-ol | 197 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C1(CC2(OCC(CO2)(C)C)CCC1CN(C)C)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H49NO4Si
reactant | hydrochloric acid | 300 ml | Cl | ClH
reactant | water | 300 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 3-[3-(tert-Butyl-diphenyl-silanyloxy)-phenyl]-4-dimethylaminomethyl-cyclohex-2-enone | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C1=CC(CCC1CN(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H37NO2Si
